US06969725B2
In analogy to the procedure described in example 1 d], (2S)-3-(4-benzyloxy-2-trifluoromethyl-phenyl)-2-ethoxy-propionic acid methyl ester was hydrogenated over 10% palladium on charcoal to give (2S)-2-ethoxy-3-(4-hydroxy-2-trifluoromethyl-phenyl)-propionic acid methyl ester as yellow solid.

reactant | (2S)-3-(4-benzyloxy-2-trifluoromethyl-phenyl)-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC1=CC=CC=C1)C(F)(F)F)OCC)=O | C20H21F3O4
catalyst | palladium on charcoal | [Pd] | Pd
product | (2S)-2-ethoxy-3-(4-hydroxy-2-trifluoromethyl-phenyl)-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)O)C(F)(F)F)OCC)=O | C13H15F3O4
